### PR TITLE
[coq] Update to work with Coq and math-comp master.

### PR DESCRIPTION
**Pull request by ejgallego**
Dear fourcolor authors, please find in this PR a proposal for the set
of changes needed in order to compile the development in Coq and
math-comp `master` branches.

Due to my unfamiliarity with the code I didn't investigate whether the
changes should be considered OK, or if they do reveal a bug upstream.

### CODE REVIEW

**Comment by anton-trunov** [comment]
I did the same fix for the `master` versions of Coq/Mathcomp, but when checking if it can be compiled with Coq 8.7.0 (Mathcomp 1.6.2) and Coq 8.8.2 (Mathcomp 1.7.0) I got two error messages, which can be fixed as follows.

- In https://github.com/math-comp/fourcolor/blob/master/theories/discretize.v#L216 change
```coq
exists s.+1 => e i; case: insubP => // a _ Da m0i  _; rewrite (Ds a) -addSn.
```
into
```coq
exists s.+1 => e i; case: insubP => // a _ Da m0i; rewrite (Ds a) -addSn.
```

- In https://github.com/math-comp/fourcolor/blob/master/theories/gridmap.v#L338 change
```coq
case: k => [|[|k]] IHk ltk Dv; first by rewrite (val_inj Dv).
```
into
```coq
case: k => [|[|k]] IHk ltk Dv; first by rewrite (@val_inj _ _ _ _ _ Dv).
```

These fixes should guarantee that `fourcolor` compiles with a range of Coq versions and a range of Mathcomp versions, including the latest master branches.
We should also explicitly mention that due to `Implicit Arguments` -> `Arguments` we loose the ability to compile with Coq 8.6.
I hope this helps.

**Comment by ejgallego** [comment]
Thanks @anton-trunov , waiting for feedback.

File: theories/dedekind.v [hunk 1]
```diff
@@ -113,7 +113,7 @@ Notation "x == y" := (eqR x y) : cut_scope.
 Notation "x != y" := (~ (x == y)) : cut_scope.
 
 Lemma leRR x : x <= x. Proof. by []. Qed.
-Implicit Arguments leRR [].
+Arguments leRR x a _ : assert.
```
Comment (ggonthier) [inline theories/dedekind.v]: I'd prefer
```
Arguments leRR x : clear implicits
```
which is more straightforward, and avoids the undocumented `assert` tag.

Comment (ejgallego) [reply theories/dedekind.v]: Amended, thanks.

**Comment by ejgallego** [comment]
> `case: k => [|[|k]] IHk ltk Dv; first by rewrite (@val_inj _ _ _ _ _ Dv).`

I've also applied this suggestion as it seems sensible to me due to the recent change in math-comp.

File: theories/dedekind.v [hunk 2]
```diff
@@ -400,7 +400,7 @@ have{a ltxa d_gt0} []: exists n, x < b + d *+ n.
   rewrite pmulrn gez0_abs -?ge_rat0 // -mulrzl numqE mulrAC.
   by rewrite divfK ?gtr_eqF ?ler_pmulr // ler1z -gtz0_ge1 denq_gt0.
 elim=> [|n IHn]; rewrite ?addr0 // mulrSr => /open[a ltxa lt_a_dnd].
-have{IHn} [/IHn//| le_bdn_x] := classical (x < b + d *+ n).
+have [/IHn//| le_bdn_x] := classical (x < b + d *+ n).
```
Comment (ggonthier) [inline theories/dedekind.v:403]: This is fine - I'm not even sure why the old script worked at all!

File: theories/gridmap.v [hunk 3]
```diff
@@ -573,12 +573,10 @@ have{cycNr kN} k_r i: {in r i &, forall x y, k x = k y}.
 pose kn x := Ordinal (index_size (k x) [:: Color0; Color1; Color2] : _ < 4)%N.
 exists (fun i => oapp kn ord0 [pick x in r i]) => e /ab_cmP/hasP[d].
 rewrite !inE eqE /= -!val_gmring => /mapP[u r2u {d}->] /mapP[eu r1eu Deu].
-rewrite -{eu Deu}(val_inj (edge u) eu Deu) -!{}Dr !mem_rev in r2u r1eu.
+rewrite -{eu Deu}(@val_inj _ _ _ (edge u) eu Deu) -!{}Dr !mem_rev in r2u r1eu.
```
Comment (ggonthier) [inline theories/gridmap.v]: I'm afraid the issue here is not in `fourcolor`, but with @anton-trunov 's PR math-comp/math-comp#253 .
Unlike other instances of`_inj` lemmas where this was accidental, making the `x1 x2` arguments of `val_inj` explicit was intended. The reason is that unlike most injective functions, `val` is expected to compute, so that `x1` and `x2` can often not be inferred from an equation convertible to `val x1 = val x2`, and hence may often need to be specified when `val_inj` is explicitly applied. Here for instance `(edge u)` can't be found by unification.
  The most obvious fix would be to amend math-comp/math-comp#253 to revert an unwanted change which I let slip by. On the other hand, it's probably not too important an issue since this is apparently the only file where `val_inj` is actually applied, and the first instance actually improves with `x1 x2` implicit, while the second remains passable if one uses the `(x1 := ...)` syntax (which becomes acceptable here as the `x1` name is now documented by `Arguments`. Ideally one should be able to write `((val_inj) (edge u) eu Deu)` as partial application does turn off trailing on-demand implicits; alas, the Coq elaborator does _not_ do that for a 0-ary partial application, as a "special" case (maybe that could be a feature request).

Comment (ejgallego) [reply theories/gridmap.v]: Barring the likely welcome improvement on the Coq elaborator, the question on compatibility with previous math-comp versions does remain, do you then prefer the version that relies on the new `Arguments` declaration of `val_inj`?

Comment (ggonthier) [reply theories/gridmap.v]: All things considered I'm inclined to go for the new implicits status, because this keeps the implicits uniform across all infectivity lemmas. However we should nevertheless not rely for now on the bound variable names. Indeed it would be better to rename `[x1 x2]` into `[u1 u2]` as `u` is the conventional variable for a subtype argument in `eqtype.v`.
   Perhaps the better fix in this would be to avoid the direct application of `val_inj` by making the script more declarative, using `have ->: v = u by apply/val_inj` instead of `rewrite` in the first instance, and adding a line:
```
have{Deu} Deu: edge u = eu by apply/val_inj.
```
before a `rewrite -{eu}Deu ...` in the second instance.

Comment (ejgallego) [reply theories/gridmap.v]: Thanks! I've amended the script with the version you propose; maybe I'd be good to enable CI in this repository so we can test the modified script builds with the intended software versions first.

Comment (ejgallego) [reply theories/gridmap.v]: An additional note, I've always found having to use `have E: type by apply/M` a bit inconsistent w.r.t. the use of `exact/M` in general. Would it make sense to support `have E: type exact/M` ?

Comment (ggonthier) [reply theories/gridmap.v]: That would require making `exact` into a keyword, which might cause all sorts of incompatibilities.
The style in the library is to avoid the redundant `by exact ...` - at some point I made a pass an replaced all of these with `by apply ...`.

Comment (ejgallego) [reply theories/gridmap.v]: I see, thanks!
